US07947698B2
N-Cyclopropylsulfonyl-4-nitrobenzylamine was dissolved in methanol (50 mL) and to the solution was added 10% Pd—C. The reaction mixture was reacted under hydrogen atmosphere (˜40 psi) for 1 h. The catalyst was filtered off over celite and washed with methanol (1 L) and water (10 mL). The filtrate was evaporated to give N-cyclopropylsulfonyl-4-aminobenzylamine. 1H NMR (DMSO-d6): δ 0.87 (m, 4H), 2.37 (m, 1H), 3.96 (d, J=6.0 Hz, 2H), 4.99 (br, 2H), 6.49 (d, J=8.1 Hz, 2H), 6.96 (d, J=8.4 Hz, 2H), 7.33 (t, J=6.0 Hz, 1H).

reactant | N-Cyclopropylsulfonyl-4-nitrobenzylamine | C1(CC1)S(=O)(=O)NCC1=CC=C(C=C1)[N+](=O)[O-] | C10H12N2O4S
solvent | methanol | 50 mL | CO | CH4O
catalyst | Pd—C | [Pd] | Pd
product | N-cyclopropylsulfonyl-4-aminobenzylamine | C1(CC1)S(=O)(=O)NCC1=CC=C(C=C1)N | C10H14N2O2S
